US07807673B2
To a solution of 4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-[3-(1,3-oxazol-5-yl)phenyl]-2-pyrimidinamine (50 mg, 0.112 mmol) in 5:1 THF:DMA (2 mL) was added HOBT (46 mg, 0.34 mmol), 0.28 g polystyrene-bound carbodiimide resin (280 mg, 0.34 mmol), and 3-thienylacetic acid (48 mg, 0.34 mmol). After stirring at rt for 48 h, excess Dowex 550A OH anion-exchange resin was added and the resulting mixture was allowed to stir overnight. The solids were then removed by vacuum filtration and rinsed with THF (25 mL) and MeOH (25 mL). The filtrate was concentrated under reduced pressure and purified by mass-guided prep LC (C18, 15% H20 (with 0.1% formic acid)/CH3OH to 100% CH3OH gradient) to afford the title compound (30 mg, 47%). 1H NMR (400 MHz, DMSO-d6) δ 3.65 (s, 2H), 6.51 (d, 1H, J=5.37 Hz), 7.07-7.12 (m, 2H), 7.23-7.48 (m, 7H), 7.55 (s, 1H), 7.68-7.76 (m, 2H), 7.89 (s, 1H), 8.20 (s, 1H), 8.27 (d, 1H, J=5.37 Hz), 8.38 (s, 1H), 8.50-8.51 (m, 1H), 8.81 (d, 1H, J=6.84 Hz), 9.73 (s, 1H), 10.28 (s, 1H). ES-LC/MS m/z=570 [M+H]+.

reactant | 4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-[3-(1,3-oxazol-5-yl)phenyl]-2-pyrimidinamine | 0.112 mmol, 50 mg | NC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC(=CC=C1)C1=CN=CO1 | C26H19N7O
reactant | THF | C1CCOC1 | C4H8O
reactant | HOBT | 0.34 mmol, 46 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-thienylacetic acid | 0.34 mmol, 48 mg | S1C=C(C=C1)CC(=O)O | C6H6O2S
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
product | N-{3-[3-(2-{[3-(1,3-oxazol-5-yl)phenyl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2-(3-thienyl)acetamide | 30 mg, 47% | O1C=NC=C1C=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(CC2=CSC=C2)=O | C32H23N7O2S
